US04710323
(3-Amino-4-chlorophenyl)-4-methoxyphenyl sulfoxide
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of (4-chloro-3-nitrophenyl)-4-methoxyphenyl sulfoxide, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | (4-chloro-3-nitrophenyl)-4-methoxyphenyl sulfoxide | ClC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)S(=O)C1=C(C=C(C=C1)OC)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C26H18Cl2N2O7S
product | (3-Amino-4-chlorophenyl)-4-methoxyphenyl sulfoxide | Yield: 86% | NC=1C=C(C=CC1Cl)C1=C(C=CC(=C1)OC)S(=O)C1=C(C=C(C=C1)OC)C1=CC(=C(C=C1)Cl)N | C26H22Cl2N2O3S
